US03962254
4,5-Dimethoxy-6-nitrovinylindane
In a 2 liter 3-necked flask fitted with a condenser and thermometer and magnetically stirred, 126.7 g (0.613 mole) of 4,5-dimethoxy-6-indanaldehyde, 29.3 g (0.380 mole) of ammonium acetate, 127 ml (2.82 mole) of nitromethane and 390 ml of acetic acid were heated at 112°C for 45 minutes. After cooling in the refrigerator and scratching with a glass rod the solution crystallized. After filtering and washing with cold acetic acid the product was dried under vacuum overnight and recrystallized from methanol yielding 104.4 g (68%) of 4,5-dimethoxy-6-nitrovinylindane as yellow needles, m.p. 103.5°-104.5°C.

reactant | 4,5-dimethoxy-6-indanaldehyde | 0.613 mole, 126.7 g | COC1=C2CCCC2=CC(=C1OC)C=O | C12H14O3
reactant | ammonium acetate | 0.380 mole, 29.3 g | C(C)(=O)[O-].[NH4+]
reactant | nitromethane | 2.82 mole, 127 ml | [N+](=O)([O-])C | CH3NO2
solvent | acetic acid | 390 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dimethoxy-6-nitrovinylindane | COC1=C2CCCC2=CC(=C1OC)C=C[N+](=O)[O-] | C13H15NO4
